US04737184
4-Bromo-3-thiophenecarboxylic Acid
To 400 ml of dry ether, under nitrogen, cooled to -70° C., was added a solution of 256 ml of n-butyllithium (1.6 m in hexane). A solution of 96.8 g of 3,4-dibromothiophene in 600 ml of ether was added, dropwise over a 20 minute period, maintaining the reaction temperature between -78° C. and -60° C. After stirring for an additional 5 minutes, the solution was transferred via a double-tipped needle, under nitrogen pressure, to an already prepared solution of 80 g of crushed dry ice in 400 ml of ether. The temperature was maintained at below -50° C. during this addition. The resulting white mixture was stirred for 5 minutes, quenched with 800 ml of water, and the layers separated. The etheral layer was washed with 500 ml of saturated sodium bicarbonate solution. The aqueous layers were combined and acidified with concentrated hydrochloric acid to yield a white solid which was filtered off and recrystallized from water/ethanol (5:2) to give 73 g of the title compound as needles; m.p. 157°-158° C.

reactant | n-butyllithium | 256 ml | C(CCC)[Li]
reactant | 3,4-dibromothiophene | 96.8 g | BrC1=CSC=C1Br | C4H2Br2S
reactant | dry ice | 80 g | C(=O)=O | CO2
solvent | ether | 600 ml | CCOCC | C4H10O
solvent | ether | 400 ml | CCOCC | C4H10O
solvent | ether | 400 ml | CCOCC | C4H10O
product | 4-Bromo-3-thiophenecarboxylic Acid | 73 g | BrC=1C(=CSC1)C(=O)O | C5H3BrO2S
